US06303613B1
(b) 3-Amino-2-cyanopyridine
A solution of 3-azido-2-cyanopyridine (1.44 g, 9.9 mmol) in ethanol (100 ml) was hydrogenated over palladium on carbon (10%, 50 mg) at room temperature and 3.5 p.s.i for 18 h. The catalyst was filtered off over Celite and the filtrate was concentrated to leave the product (1.16 g). 1H NMR (d6-DMSO) 7.87 (1H, d), 7.33 (1H, dd), 7.22 (1H, d), 6.28 (2H, s).

reactant | 3-azido-2-cyanopyridine | 9.9 mmol, 1.44 g | N(=[N+]=[N-])C=1C(=NC=CC1)C#N | C6H3N5
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 3-Amino-2-cyanopyridine | 1.16 g | NC=1C(=NC=CC1)C#N | C6H5N3
